US07943669B2
Step B: [4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid
{[4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (200 mg; 0.40 mmol) was dissolved in THF (2 mL), ethanol (4 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 30 min. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated to dryness. Yield: 146 mg (78%). HPLC-MS: m/z: 472.9 (M)+; Rt: 3.03 min.

reactant | [4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.40 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCC1CCCC1)C)=O | C31H32O4S
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid | C1(CCCC1)COC=1C=C(C=C(C1)C#CC1=CC=CC=C1)SC1=CC(=C(OCC(=O)O)C=C1)C | C29H28O4S
